US05008280
3-(2-tert-Butylthioethyl)-2-imino-6-trifluoromethoxybenzothiazoline hydrochloride (16.8 g) and 48% strength hydrobromic acid (500 cc) are heated to 120° C. for 18 hours. The precipitate formed is filtered off and washed with distilled water (2×50 cc) and then with ethyl ether (2×50 cc). Bis[2-(2-imino-6-tri-fluoromethoxy-3-benzothiazolinyl)ethyl]disulphide dihydrobromide (10.0 g), m.p. above 260° C., is obtained.

reactant | 3-(2-tert-Butylthioethyl)-2-imino-6-trifluoromethoxybenzothiazoline hydrochloride | 16.8 g | Cl.C(C)(C)(C)SCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N
reactant | hydrobromic acid | 500 cc | Br | BrH
product | Bis[2-(2-imino-6-tri-fluoromethoxy-3-benzothiazolinyl)ethyl]disulphide dihydrobromide | 10.0 g | Br.Br.N=C1SC2=C(N1CCSSCCN1C(SC3=C1C=CC(=C3)OC(F)(F)F)=N)C=CC(=C2)OC(F)(F)F | InChI=1S/C20H16F6N4O2S4.2BrH/c21-19(22,23)31-11-1-3-13-15(9-11)35-17(27)29(13)5-7-33-34-8-6-30-14-4-2-12(32-20(24,25)26)10-16(14)36-18(30)28;;/h1-4,9-10,27-28H,5-8H2;2*1H
